US08114868B2
5-bromo-1-(2,2,2-trifluoroethyl)pyridin-2(1H)-one was prepared from 5-bromopyridin-2(1H)-one and 2,2,2-trifluoroethyl trifluoromethanesulfonate following a procedure analogous to that described in Example 59 Step 1.

reactant | 5-bromopyridin-2(1H)-one | BrC=1C=CC(NC1)=O | C5H4BrNO
reactant | 2,2,2-trifluoroethyl trifluoromethanesulfonate | FC(S(=O)(=O)OCC(F)(F)F)(F)F | C3H2F6O3S
product | 5-bromo-1-(2,2,2-trifluoroethyl)pyridin-2(1H)-one | BrC=1C=CC(N(C1)CC(F)(F)F)=O | C7H5BrF3NO
